US04435569
Production of 2-amino-5-(p-methoxybenzyl)aminomethylpyrrolo[2,3-d]pyrimidin-4-one
By the same procedure as Example 5, 162 mg of the above-identified compound is synthesized from 252 mg of 2-amino-5-aminomethylpyrrolo[2,3-d]pyrimidin-4-one (dihydrochloride) and 157 mg of p-methoxybenzyl chloride.

reactant | 2-amino-5-aminomethylpyrrolo[2,3-d]pyrimidin-4-one | 252 mg | NC1=NC(C=2C(=N1)N=CC2CN)=O | C7H7N5O
reactant | p-methoxybenzyl chloride | 157 mg | COC1=CC=C(CCl)C=C1 | C8H9ClO
product | 2-amino-5-(p-methoxybenzyl)aminomethylpyrrolo[2,3-d]pyrimidin-4-one | NC1=NC(C=2C(=N1)N=CC2CNCC2=CC=C(C=C2)OC)=O | C15H15N5O2
